US07319101B2
b) 3-Bromo-5-trifluoromethyl-benzene-1,2-diol
To a solution of 4-trifluoromethyl-benzene-1,2-diol (870 mg, 4.8 mmol) in 20 mL CCl4, Br2 (770 mg, 4.8 mmol, 1 eq.) was added and the mixture was stirred at 60° C. for 10 h. The sol-vent was then removed in vacuo and the crude product was purified by flash chromatography (silica gel, hexane/EtOAc 4:1→3:2) to yield the desired product as a yellowish oil.

reactant | 4-trifluoromethyl-benzene-1,2-diol | 4.8 mmol, 870 mg | FC(C=1C=C(C(=CC1)O)O)(F)F | C7H5F3O2
reactant | Br2 | 4.8 mmol, 770 mg, 1 eq. | BrBr | Br2
solvent | CCl4 | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromo-5-trifluoromethyl-benzene-1,2-diol | BrC1=C(C(=CC(=C1)C(F)(F)F)O)O | C7H4BrF3O2
